US07423158B2
A solution of 3-(3-bromophenyl)cyclobutanone (2.03 g 9.02 mmol) and triphenylphosphoranylidene acetic acid ethyl ester (15.72 gms 45.12 mmol) dichloromethane was irradiated in a CEM Discover™ microwave instrument for 30 minutes at 120° C. Pressure reached a maximum of 180 PSI. Standard work-up procedures followed by purification by column chromatography (isocratic; 10% diethyl ether in hexanes) afforded [3-(3-bromophenyl)cyclobutylidene]acetic acid ethyl ester as an oil, 2.37 g (89% yield), 1H NMR (400 MHz, DMSO-d6) δ ppm 1.20 (t, J=7.1 Hz, 3 H) 2.89-3.00 (m, 1 H) 3.03-3.11 (m, 1 H) 3.16-3.27 (m, 1 H) 3.46-3.57 (m, 1 H) 3.63 (q, J=8.0 Hz, 1 H) 4.08 (q, J=7.0 Hz, 2 H) 5.71 (q, J=2.9 Hz, 1 H) 7.25-7.35 (m, 2 H) 7.39-7.43 (m, 1 H) 7.48-7.52 (m, 1 H); MS (APPI) m/z 295 [M+H]+.

reactant | 3-(3-bromophenyl)cyclobutanone | 9.02 mmol, 2.03 g | BrC=1C=C(C=CC1)C1CC(C1)=O | C10H9BrO
reactant | triphenylphosphoranylidene acetic acid ethyl ester | 45.12 mmol, 15.72 gms | C(C)OC(C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C22H21O2P
solvent | dichloromethane | ClCCl | CH2Cl2
product | [3-(3-bromophenyl)cyclobutylidene]acetic acid ethyl ester | 89% yield | C(C)OC(C=C1CC(C1)C1=CC(=CC=C1)Br)=O | C14H15BrO2
